US07754737B2
tert-butyl (S)-2-((S)-3-((R)-5-ethoxy-1-phenylpentyl)piperidine-1-carboxamido)-3-cyclohexylpropylmethylcarbamate (40.7 mg, 0.071 mmol) was stirred in HCl/dioxane (4 N, 4 mL) at rt until no starting material remained. The solvent was removed to give (3S)—N—((S)-3-cyclohexyl-1-(methylamino)propan-2-yl)-3-((R)-5-ethoxy-1-phenylpentyl)-piperidine-1-carboxamide (32.9 mg, 91%) as its HCl salt. 1H NMR (CD3OD) δ 0.9 (m, 3H), 1.0 (m, 2H), 1.11 (t, 3H), 1.2-2.0 (20H), 2.40 (m, 1H), 2.65 (m, 1H), 2.70 (s, 3H), 3.93 (m, 1H), 3.05 (m, 2H), 3.31 (m, 1H), 3.40 (q, 2H), 3.91 (d, 1H), 4.13 (m, 2H), 7.13 (2H), 7.19 (1H), 7.28 (2H). MS ESI+ve m/z 472 (M+1).

reactant | tert-butyl (S)-2-((S)-3-((R)-5-ethoxy-1-phenylpentyl)piperidine-1-carboxamido)-3-cyclohexylpropylmethylcarbamate | 0.071 mmol, 40.7 mg | C(C)OCCCC[C@@H](C1=CC=CC=C1)[C@H]1CN(CCC1)C(=O)N[C@H](CN(C(OC(C)(C)C)=O)C)CC1CCCCC1 | C34H57N3O4
solvent | HCl dioxane | 4 N, 4 mL | Cl.O1CCOCC1
product | (3S)—N—((S)-3-cyclohexyl-1-(methylamino)propan-2-yl)-3-((R)-5-ethoxy-1-phenylpentyl)-piperidine-1-carboxamide | 32.9 mg, 91% | C1(CCCCC1)C[C@@H](CNC)NC(=O)N1C[C@@H](CCC1)[C@@H](CCCCOCC)C1=CC=CC=C1 | C29H49N3O2
